US05064649
7β-[2-(2-Aminothiazol-4-yl)-2-Z-hydroxyiminoacetamido]-3-(Z-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)ceph-3-em-4-carboxylic Acid
Sodium 2-(2-tritylaminothiazol-4-yl)-2-Z-trityloxyiminoacetate (0.759 g), in dry DMF (5 mls) was cooled to ca -50° C. under argon. This solution was treated with methanesulphonyl chloride (0.085 mls) and allowed to warm to -15° C. A solution of diphenylmethyl 7β-amino-3-(Z-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)ceph-3-em-4-carboxylate, (0.46 g) in dry DMF (5 mls) was added, and the solution allowed to reach room temperature over 1 h. The solution was diluted with ethl acetate and washed with water, brine and then dried. After removal of solvent the residue was flash chromatographed on silica gel eluting with 50% ethyl acetate/hexane to give the title compound as a yellow foam, (0.375 g, 36%), νmax 3380, 1770(br), 1725, 1685, 1630, 1505(br), 1440, 1370 and 1345cm-1 ; δH (CDCl3) 2.07 (3H,s), 3.74 and 3.96 (2H,ABq, J18.3Hz, sharpens on D2O shake), 5.08 (1H, m, sharpens to d, J5.0Hz on D2O shake), 6.12 (1H, br.m, sharpens to d, J5.0Hz on D2O shake), 6.43 (1H, br.s, sharpens on D2O shake), 6.74 (1H, s), 6.78 (1H, br.s, exch.), 6.98 (1H, s) and 7.20 to 7.55 (40H, m, arom-H); [mass spectrum: +ve ion (NOBA, Na+) MNa+, 1180].

reactant | Sodium 2-(2-tritylaminothiazol-4-yl)-2-Z-trityloxyiminoacetate | 0.759 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)[O-])=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | methanesulphonyl chloride | 0.085 mls | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl 7β-amino-3-(Z-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)ceph-3-em-4-carboxylate | 0.46 g | N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/2\C(=C(C(O2)=O)C)OC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O6S
solvent | DMF | 5 mls | CN(C)C=O | C3H7NO
solvent | DMF | 5 mls | CN(C)C=O | C3H7NO
solvent | ethl acetate | C(C)(=O)OCC | C4H8O2
product | 7β-[2-(2-Aminothiazol-4-yl)-2-Z-hydroxyiminoacetamido]-3-(Z-2,5-dihydro-4-methoxy-3-methyl-2-oxofuran-5-ylidenemethyl)ceph-3-em-4-carboxylic Acid | 0.375 g, 36% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/2\C(=C(C(O2)=O)C)OC)C(=O)O)C1=O)=N/O | C19H17N5O8S2
